US06855722B2
a) 3-(5-Benzyloxy-indol-1-yl)-hexanoic acid ethyl ester
A solution of 5-benzyloxyindole (5.00 g, 22.4 mmol) in DMF (20 mL) was added dropwise to a stirred solution of sodium hydride (0.91 g, 38.1 mmol) in DMF (50 mL) at 0° C. and stirred for 20 minutes. Ethyl-β-bromocaproate (5.59 g, 26.9 mmol) in DMF (20 mL) was added and the reaction was stirred at room temperature overnight. The reaction was then poured into cold H2O (150 mL) and extracted with ethyl acetate (3×50 mL), dried over magnesium sulfate and concentrated. The residue was purified by flash chromatography on silica gel (40% ethyl acetate in hexane) to give the title compound as oil (40% yield). 1H NMR (CDCl3) δ 7.47 (d, 2H, J=7.2 Hz), 7.38 (t, 2H, J=7.1 Hz), 7.32 (d, 2H, J=8.8 Hz), 7.12 (dd, 2H, J=2.4, 13.7 Hz), 6.94 (dd, 1H, J=2.4, 10.2 Hz), 6.44 (d, 1H, J=3.1 Hz), 5.09 (s, 2H), 4.79 (m, 1H), 3.98 (q, 2H, J=7.1 Hz), 2.80 (m, 2H), 1.90 (m, 2H), 1.25 (m, 2H), 1.07 (t, 3H, J=7.2 Hz), 0.86 (t, 3H, J=7.3 Hz).

reactant | 5-benzyloxyindole | 22.4 mmol, 5.00 g | C(C1=CC=CC=C1)OC=1C=C2C=CNC2=CC1 | C15H13NO
reactant | sodium hydride | 38.1 mmol, 0.91 g | [H-].[Na+]
reactant | Ethyl-β-bromocaproate | 26.9 mmol, 5.59 g | C(C)OC(CC(CCC)Br)=O | C8H15BrO2
reactant | H2O | 150 mL | O | H2O
solvent | DMF | 20 mL | CN(C)C=O | C3H7NO
solvent | DMF | 50 mL | CN(C)C=O | C3H7NO
solvent | DMF | 20 mL | CN(C)C=O | C3H7NO
product | 3-(5-Benzyloxy-indol-1-yl)-hexanoic acid ethyl ester | 40% yield | C(C)OC(CC(CCC)N1C=CC2=CC(=CC=C12)OCC1=CC=CC=C1)=O | C23H27NO3
